US05202330
A solution of 2-chloro-3-nitrobenzaldehyde (2.00 g., 10.8 mmole), ethyl acetoacetate (1.37 ml., 10.78 mmole), piperidine (0.25 ml.) and acetic acid (0.5 ml.) in benzene (21 ml.) under argon is fitted with a Dean-Stark trap and heated at 110° (oil bath) for 3 hours. The reaction is diluted with ether and washed with saturated sodium bicarbonate, 1N hydrochloric acid, and saturated sodium chloride, dried over anhydrous magnesium sulfate, and evaporated to give 2-[(2-chloro-3-nitrophenyl)methylene]-3-oxobutanoic acid, ethyl ester as a red oil (3.42 g.). TLC (silica gel; ether/hexanes) Rf =0.31 and 0.43.

reactant | 2-chloro-3-nitrobenzaldehyde | 10.8 mmole, 2.00 g | ClC1=C(C=O)C=CC=C1[N+](=O)[O-] | C7H4ClNO3
reactant | ethyl acetoacetate | 10.78 mmole, 1.37 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | piperidine | 0.25 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 21 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | 2-[(2-chloro-3-nitrophenyl)methylene]-3-oxobutanoic acid, ethyl ester | ClC1=C(C=CC=C1[N+](=O)[O-])C=C(C(=O)OCC)C(C)=O | C13H12ClNO5
